US05521213
Step 1: 1-(4-(methylthio)phenyl)-2-phenylethanone
The title compound was prepared from 4-(methylthio)benzaldehyde and benzyl chloride by the same method as described in Step 1 of Example 4.

reactant | 4-(methylthio)benzaldehyde | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1-(4-(methylthio)phenyl)-2-phenylethanone | CSC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C15H14OS
